US07632479B2
Halstead (J. Appl. Chem., 1970, 20:129-132) describes the decomposition of ammonium sulfate at 400° C. The first reaction converts ammonium sulfate to ammonium bisulfate and ammonia. In a second reaction, the ammonium bisulfate dehydrates to form a water molecule and ammonium pyrosulfate, (NH4)2S2O7. Further heating of the ammonium pyrosulfate to form sulfur dioxide and nitrogen, which are not desired products from ammonium sulfate, is also carried out.

reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | ammonium bisulfate | S([O-])(O)(=O)=O.[NH4+]
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | ammonium pyrosulfate | S(=O)(=O)([O-])OS(=O)(=O)[O-].[NH4+].[NH4+] | InChI=1S/2H3N.H2O7S2/c;;1-8(2,3)7-9(4,5)6/h2*1H3;(H,1,2,3)(H,4,5,6)
